US07169805B2
α-chloro-toluic acid (9.0 g, 0.0528 Mol) and carbonyldiimidazole (10.3 g, 0.0634 Mol) were dissolved in THF (100 ml) and stirred overnight at room temperature. Then TEA was added (7.4 ml. 0.0528 Mol) and to this reaction mixture a solution of captopril (11.5 g, 0.0528 Mol) in THF (20 ml) was added dropwise and the reaction was stirred overnight at room temperature. The mixture was then partitioned between KHSO4 10% and EtOAc (120 ml). The organic layer was separated and the aqueous phase was extracted with EtOAc (2×60 ml). The combined organic phases were washed with water (3×60 ml), dried over sodium sulphate and evaporated under reduced pressure affording 14.1 g of 1-[(2S)-3-(4-chloromethylbenzoyl)mercapto-2-methyl-1-oxopropyl]-L-proline as a white solid used for the next step without further purification.

reactant | α-chloro-toluic acid | 0.0528 Mol, 9.0 g | ClCC=1C(=CC=CC1)C(=O)O | C8H7ClO2
reactant | carbonyldiimidazole | 0.0634 Mol, 10.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | captopril | 0.0528 Mol, 11.5 g | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[(2S)-3-(4-chloromethylbenzoyl)mercapto-2-methyl-1-oxopropyl]-L-proline | 14.1 g | ClCC1=CC=C(C(=O)SC[C@H](C(=O)N2[C@H](C(=O)O)CCC2)C)C=C1 | C17H20ClNO4S
